US06919355B2
1-[4-(4-Fluorobenzyl)piperidine-1-yl]-1-(6-hydroxy-1H-indole-2-yl)methanone (45 13848)
The title compound is prepared from 4-(4-fluorobenzyl)piperidine [J. Med. Chem., 35, 4903. (1992)] and 6-hydroxy-1H-indole-2-carboxylic acid in acetonitrile at room temperature. The reaction mixture is concentrated and the residue is purified by column chromatography using Kiesel gel 60 as adsorbent (Merck) and toluene:methanol=4:1 as eluent. Mp.: 180-182° C. (toluene).

reactant | 4-(4-fluorobenzyl)piperidine | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
reactant | 6-hydroxy-1H-indole-2-carboxylic acid | OC1=CC=C2C=C(NC2=C1)C(=O)O | C9H7NO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[4-(4-Fluorobenzyl)piperidine-1-yl]-1-(6-hydroxy-1H-indole-2-yl)methanone | FC1=CC=C(CC2CCN(CC2)C(=O)C=2NC3=CC(=CC=C3C2)O)C=C1 | C21H21FN2O2
